US08084448B2
A. 4-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-butyronitrile
To a solution of 4-bromobutyronitrile (0.074 mL, 0.75 mmol) in DMF (2 mL) is added Rieke zinc (0.9 mmol) and a catalytic amount of NaI. The mixture is stirred at RT for 5 h then P(o-tolyl)3 (22.8 mg, 15 mol %), Pd2(dba)3 (13.7 mg, 3 mol %) and 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (272 mg, 0.5 mmol) is added and the mixture is stirred at RT for 18 h. The mixture is partitioned between EtOAc and 1N HCl and the organic phase is washed with brine and dried over sodium sulfate. The solvent is removed under reduced pressure and the residue is purified by column chromatography using a gradient of 0-15% EtOAc/hexane as eluent to give the title compound.

reactant | 4-bromobutyronitrile | 0.75 mmol, 0.074 mL | BrCCCC#N | C4H6BrN
reactant | NaI | [Na+].[I-]
reactant | P(o-tolyl)3 | 22.8 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.5 mmol, 272 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | zinc | 0.9 mmol | [Zn] | Zn
catalyst | Pd2(dba)3 | 13.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-butyronitrile | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCCC#N | C24H31N3O4SSi
